US07829586B2
Ethyl 4-(6-methylpyridin-3-yl)-2,4-dioxobutyrate
At −78° C., a tetrahydrofuran (5 ml) solution of 5-acetyl-2-picoline (583 mg) was added to a tetrahydrofuran (15 ml) solution of 1 N lithium hexamethyldisilazide/tetrahydrofuran solution (5.2 ml), and stirred at the same temperature for 1 hour. At −78° C., dimethyl oxalate (701 μl) was added to the reaction liquid, and stirred at room temperature for 1 hour. 4 N hydrogen chloride/dioxane solution (4 ml) was added to the reaction liquid, and concentrated under reduced pressure to obtain a crude product of the entitled compound.

reactant | 5-acetyl-2-picoline | 583 mg | C(C)(=O)C=1C=CC(=NC1)C | C8H9NO
reactant | lithium hexamethyldisilazide tetrahydrofuran | 1 N, 5.2 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+].O1CCCC1
reactant | dimethyl oxalate | 701 μl | C(C(=O)OC)(=O)OC | C4H6O4
reactant | hydrogen chloride dioxane | 4 N, 4 ml | Cl.O1CCOCC1
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Ethyl 4-(6-methylpyridin-3-yl)-2,4-dioxobutyrate | CC1=CC=C(C=N1)C(CC(C(=O)OCC)=O)=O | C12H13NO4
